US04329529
Four liters of an ethyl ether solution containing 500 g of benzyl magnesium chloride were added slowly to a mixture of 1.5 Kg benzoyl chloride and 1 l of ethyl ether while cooling the whole mass. Thereafter, the whole mass was incorporated with 1 l of 30% sulphuric acid, agitated, incorporated with an alkali for neutralizing the sulphuric acid, washed with water and then distilled to remove therefrom 183 g of a distillate (phenyl-o-tolylketone) boiling in the range of 164°-169° C. at 9 mm Hg and then obtain 200 g of a distillate (1,2,3-triphenylpropanol) boiling in the range of 224°-235° C. at 8 mm Hg. This propanol (180 g) was incorporated with 150 cc of toluene and 35 g of potassium sulphite to form a mixture which was heated under reflux and, after distillation-off of the toluene, obtain 153 g of 1,2,3-triphenylpropene-1 as the distillate boiling in the range of 185°-188° C. at 0.03 mm Hg. The thus obtained distillate (128 g) was incorporated with 14 g of a rhodium-activated carbon catalyst (rhodium content: 5 wt.%) and 500 cc of n-hexane in a 2-liter autoclave where the resulting mixture was heated to 65° C. for 20 minutes and then at 95° C. for one hour under a hydrogen pressure of 100 Kg/cm2, and further heated to 200° C. for 5 hours under a hydrogen pressure of 200 Kg/cm2 to distil off the n-hexane and then obtain 124 g of a distillate boiling in the range of 140°-146° C. at 0.025 mm Hg and having a refractive index (nD25) of 1.4959. It was found from the NMR spectrum of this distillate that at least 95% of hydrogenation of the aromatic nuclei and aliphatic unsaturated bonds in the distillate had been effected. The distillate was 1,2,3-tricyclohexylpropane having a kinetic viscosity of 7.69 cSt (98.9° C.) and a traction coefficient of 0.075. The distillate or conventional traction fluid obtained herein had a comparatively high viscosity but it was very unsatisfactory in traction coefficient as compared with the traction fluids (II) of this invention (traction coefficient: 0.092~0.094 as indicated in Examples 3-5). Further, it is very uneconomical that the synthesis of such a conventional traction fluid will require a Grignard's reaction using benzyl magnesium chloride and benzoyl chloride.

reactant | benzyl magnesium chloride | 500 g | C(C1=CC=CC=C1)[Mg]Cl
reactant | benzoyl chloride | 1.5 Kg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sulphuric acid | 1 l | S(O)(O)(=O)=O | H2O4S
solvent | ethyl ether | 1 l | C(C)OCC | C4H10O
solvent | ethyl ether | Four liters | C(C)OCC | C4H10O
product | 1,2,3-triphenylpropanol | C1(=CC=CC=C1)C(C(CC1=CC=CC=C1)C1=CC=CC=C1)O | C21H20O
